US07402595B2
6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-chloro-4-phenylisocoumarin-3-carboxylic acid methyl ester (1.3 g) in methanol (15 ml) was added methylhydrazine (3.0 g) and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and the obtained residue was dissolved in methanol (15 ml). Sulfuric acid (1.5 ml) was added and the mixture was refluxed for 2 hrs. The reaction mixture was concentrated, and the residue was neutralized with aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) and crystallized from isopropyl ether to give the title compound (980 mg) as colorless crystals.

reactant | 6-chloro-4-phenylisocoumarin-3-carboxylic acid methyl ester | 1.3 g | COC(=O)C=1OC(=O)C2=CC=C(C=C2C1C1=CC=CC=C1)Cl | C17H11ClO4
reactant | methylhydrazine | 3.0 g | CNN | CH6N2
solvent | methanol | 15 ml | CO | CH4O
product | 6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 980 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)NC | C18H15ClN2O3
